US07713993B2
Synthesis of (2-chloroethoxy)-(6-chloropyridin-3-yl)acetic acid
A 5 N hydrochloric acid solution (5 mL) was added to a solution of (2-chloroethoxy)-(6-chloropyridin-3-yl)acetonitrile (1.3 g) in THF (5 mL), and the reaction solution was stirred at 130° C. for two hours using a microwave reactor. The reaction solution was left to cool to room temperature. Then, a 5 N sodium hydroxide solution (10 mL) and diethyl ether were added to the reaction solution, and the aqueous layer was separated. A 5 N hydrochloric acid solution (5 mL) was added to the resulting aqueous layer to make the reaction solution neutral again, followed by extraction with methylene chloride twice. The resulting organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 565.1 mg of the title compound. The property value of the compound is as follows.

reactant | hydrochloric acid | 5 N, 5 mL | Cl | ClH
reactant | (2-chloroethoxy)-(6-chloropyridin-3-yl)acetonitrile | 1.3 g | ClCCOC(C#N)C=1C=NC(=CC1)Cl | C9H8Cl2N2O
reactant | sodium hydroxide | 5 N, 10 mL | [OH-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-chloroethoxy)-(6-chloropyridin-3-yl)acetic acid | 565.1 mg | ClCCOC(C(=O)O)C=1C=NC(=CC1)Cl | C9H9Cl2NO3
